US07417060B2
To a solution of [2-(4-iodophenoxy)ethyl]amine (6.14 g) in dimethyl sulfoxide (50 ml) was added N,O-bis(trimethylsilyl)acetamide (2.88 ml) and the mixture was stirred for 1 hour. To the mixture was added a solution of (2R)-2-(4-nitrophenyl)oxirane (3.21 g) in dimethyl sulfoxide (10 ml) and the mixture was stirred for 37 hours. After cooling to room temperature, the mixture was quenched by the addition of 5% acetic acid/water (120 ml) and stirred for 30 minutes. The mixture was basified with 1N sodium hydroxide and extracted with ethyl acetate (120 ml). The extract was washed with water (120 ml×2) and brine (120 ml), and dried over magnesium sulfate. Filtration followed by evaporation gave (1R)-2-[[2-(4-iodophenoxy)ethyl]amino]-1-(4-nitrophenyl)ethanol (7.52 g) as a brown solid. The compound was used in the next step without further purification.

reactant | [2-(4-iodophenoxy)ethyl]amine | 6.14 g | IC1=CC=C(OCCN)C=C1 | C8H10INO
reactant | N,O-bis(trimethylsilyl)acetamide | 2.88 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | (2R)-2-(4-nitrophenyl)oxirane | 3.21 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1OC1 | C8H7NO3
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | (1R)-2-[[2-(4-iodophenoxy)ethyl]amino]-1-(4-nitrophenyl)ethanol | 7.52 g | IC1=CC=C(OCCNC[C@H](O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C16H17IN2O4
